US08497264B2
2 N HCl (3 mL) was added to solution of 2-methoxy-7-(pyrimidin-5-yl)-9-vinyl-9H-xanthen-9-ol (50 mg, 0.150 mmol) and thiourea (9.25 pt, 0.171 mmol) in HOAc (5 mL). The reaction mixture was allowed to stir overnight at rt and concentrated under reduced pressure. The residue was treated with of TFA (4 mL). The reaction mixture was stirred overnight at rt. The reaction mixture was concentrated under reduced pressure and the residue was treated with aqueous, half-saturated sodium bicarbonate, extracted with EtOAc, and concentrated under reduced pressure. The residue was purified by chromatography (DCM/MeOH 20:1 to 5:1) to give 2′-methoxy-7′-(pyrimidin-5-yl)-5,6-dihydrospiro[[1,3]thiazine-4,9′-xanthen]-2-amine as an off-white solid.

reactant | HCl | 2 N, 3 mL | Cl | ClH
reactant | 2-methoxy-7-(pyrimidin-5-yl)-9-vinyl-9H-xanthen-9-ol | 0.150 mmol, 50 mg | COC1=CC=2C(C3=CC(=CC=C3OC2C=C1)C=1C=NC=NC1)(O)C=C | C20H16N2O3
reactant | thiourea | 0.171 mmol | NC(=S)N | CH4N2S
solvent | HOAc | 5 mL | CC(=O)O | C2H4O2
product | 2′-methoxy-7′-(pyrimidin-5-yl)-5,6-dihydrospiro[[1,3]thiazine-4,9′-xanthen]-2-amine | COC1=CC=2C3(C4=CC(=CC=C4OC2C=C1)C=1C=NC=NC1)N=C(SCC3)N | C21H18N4O2S
